US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-1-((4-fluorophenyl)methyl)-2-hydroxyethyl)-4-phenylbutyramide
To a solution of (1RS,2SR)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol (450 mg, 1.71 mmol) in acetonitrile (30 ml) were added 4-phenyl-n-butyric acid (280 mg, 1.71 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (491 mg, 2.56 mmol) and 1-hydroxy-1H-benzotriazole (261 mg, 1.71 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). Recrystallization from ethyl acetate-hexane gave the title compound (523 mg, 75%).

reactant | (1RS,2SR)-2-amino-1,3-bis(4-fluorophenyl)-1-propanol | 1.71 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)F | C15H15F2NO
reactant | 4-phenyl-n-butyric acid | 1.71 mmol, 280 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.56 mmol, 491 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.71 mmol, 261 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-1-((4-fluorophenyl)methyl)-2-hydroxyethyl)-4-phenylbutyramide | 523 mg, 75% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)F)NC(CCCC1=CC=CC=C1)=O)O | C25H25F2NO2
